US07531482B2
4-Methoxybenzoic acid 4-[2-(5-Chlorothieno[2,3-d]pyrimidin-4-ylamino)ethyl]phenyl ester
A solution of 6-methoxynicotinoyl chloride (343 mg, 2 mmol) in CH2Cl2 (5 mL) was added dropwise to a solution of 4-{2-[(5-chlorothieno[2,3-d]pyrimidin-4-yl)amino]ethyl}phenol (611 mg, 2 mmol) and Et3N (1.0g, 10 mmol) in CH2Cl2 (5 mL) and the solution was stirred at room temperature overnight. The reaction was diluted with CH2Cl2 (20 mL) and washed with H2O, 1M NaOH, and brine. The organics were dried (Na2SO4) and filtered through silica gel. The solvent was stripped yielding 200 mg of material which was purified via HPLC giving 48mg, 0.11 mmol, 5 percent yield.

reactant | 6-methoxynicotinoyl chloride | 2 mmol, 343 mg | COC1=NC=C(C(=O)Cl)C=C1 | C7H6ClNO2
reactant | 4-{2-[(5-chlorothieno[2,3-d]pyrimidin-4-yl)amino]ethyl}phenol | 2 mmol, 611 mg | ClC1=CSC=2N=CN=C(C21)NCCC2=CC=C(C=C2)O | C14H12ClN3OS
reactant | Et3N | 10 mmol, 1.0g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Methoxybenzoic acid 4-[2-(5-Chlorothieno[2,3-d]pyrimidin-4-ylamino)ethyl]phenyl ester | 200 mg, 5 percent yield | ClC1=CSC=2N=CN=C(C21)NCCC2=CC=C(C=C2)OC(C2=CC=C(C=C2)OC)=O | C22H18ClN3O3S
